US06992103B2
t-Butyl 2-amino-6-methoxypyridine-4-carboxylate (D55)
t-Butyl 2-benzylamino-6-methoxypyridine-4-carboxylate (D54) (0.294 g) in glacial AcOH (50 mL) was hydrogenated for 5 h at atmospheric pressure and room temperature in the presence of Pd—C (10%; 0.25 g). The catalyst was filtered off and washed thoroughly on the filter with MeOH. The combined filtrates were evaporated to give the title compound (D55) as a gum (0.184 g).

reactant | t-Butyl 2-benzylamino-6-methoxypyridine-4-carboxylate | 0.294 g | C(C1=CC=CC=C1)NC1=NC(=CC(=C1)C(=O)OC(C)(C)C)OC | C18H22N2O3
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
catalyst | Pd—C | 0.25 g | [Pd] | Pd
product | t-Butyl 2-amino-6-methoxypyridine-4-carboxylate | NC1=NC(=CC(=C1)C(=O)OC(C)(C)C)OC | C11H16N2O3
